US07351858B2
N-(4-chlorobenzyl)acetamide (2.337 g, 12.726 mmol) was dissolved in THF (100 ml) and was cooled to zero degrees under argon atmosphere. (Methylthio)methane compound with borane (1:1) (2.417 g, 31.815 mmol) was added and the mixture was refluxed overnight at RT. HCl (15 ml, 10%) was gently added and was stirred overnight. The solvent was removed by evaporation. Diethyl ether (20 ml) was added and the product was extracted to the water phase by K2CO3 (3×15 ml). The aqueous phase was acidified by HCl (10 ml, 10%) and the product was extracted to the organic phase by EtOAc (3×15 ml). The organic phase was dried (MgSO4) and the solvent was removed by evaporation to give 0.938 g of N-(4-chlorobenzyl)-N-ethylamine (yield 43.4%).

reactant | N-(4-chlorobenzyl)acetamide | 12.726 mmol, 2.337 g | ClC1=CC=C(CNC(C)=O)C=C1 | C9H10ClNO
reactant | (Methylthio)methane compound with borane | 31.815 mmol, 2.417 g | B.CSC
reactant | HCl | 15 ml | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-(4-chlorobenzyl)-N-ethylamine | 0.938 g, yield 43.4% | ClC1=CC=C(CNCC)C=C1 | C9H12ClN
